US07981874B2
Dimethyl [4-(tert-butoxycarbonyl)phenyl]malonate (4.00 g, 13.0 mmol) was taken up in THF (30 mL) and MeOH (10 mL) under N2. NaOH (2 M, 19.5 mL, 39.0 mmol) was added, and the reaction was stirred at room temperature for 45 min. The solution was quenched with 1 M citric acid and extracted with EtOAc (2×). The combined organic extracts were washed with water and brine, dried (MgSO4), and evaporated. The resulting yellow oil was dissolved in 1:1 EtOAc:water (100 mL) and stirred at 85° C. for 2 h. The mixture was diluted with 1 M citric acid and extracted with EtOAc. The organic layer was washed with water and brine, dried (MgSO4), and evaporated to give [4-(tert-Butoxycarbonyl)phenyl]acetic acid as a tan solid. 1H NMR (DMSO-d6, 600 MHz) δ 12.42 (bs, 1H), 7.82 (d, J=8.3 Hz, 2H), 7.35 (d, J=8.3 Hz, 2H), 3.64 (s, 2H), 1.51 (s, 9H). MS: cal'd 259 (MNa+), exp 259 (MNa+).

reactant | Dimethyl [4-(tert-butoxycarbonyl)phenyl]malonate | 13.0 mmol, 4.00 g | C(C)(C)(C)OC(=O)C1=CC=C(C=C1)C(C(=O)OC)C(=O)OC | C16H20O6
reactant | MeOH | 10 mL | CO | CH4O
reactant | NaOH | 39.0 mmol, 2 M, 19.5 mL | [OH-].[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | [4-(tert-Butoxycarbonyl)phenyl]acetic acid | C(C)(C)(C)OC(=O)C1=CC=C(C=C1)CC(=O)O | C13H16O4
